US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid pyridin-3-ylmethyl ester
The present compound was synthesized by a method similar to that in Example 200 and using 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (300 mg) and 3-pyridinemethanol. Colorless crystals (288 mg).

reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 300 mg | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(=O)O)C2=CC=CC=C2)Br)=O | C24H16BrNO5
reactant | 3-pyridinemethanol | N1=CC(=CC=C1)CO | C6H7NO
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid pyridin-3-ylmethyl ester | N1=CC(=CC=C1)COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1 | C30H21BrN2O5
